US07612114B2
[4-(2-Diisopropylaminoethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine
Synthesized from 4-(2-diisopropylaminoethoxy)benzoic acid hydrochloride (240 mg) and 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine (150 mg) according to an analogous synthetic method to Example 152, the title compound (264 mg) was obtained.

reactant | 4-(2-diisopropylaminoethoxy)benzoic acid hydrochloride | 240 mg | Cl.C(C)(C)N(CCOC1=CC=C(C(=O)O)C=C1)C(C)C
reactant | 5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenylamine | 150 mg | COC=1C=CC(=C(C1)N)C1CC2=CC=C(C=C2CC1)OC | C18H21NO2
product | [4-(2-Diisopropylaminoethoxy)benzyl][5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amine | 264 mg | C(C)(C)N(CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)OC)C=C1)C(C)C | C33H44N2O3
